US06297257B1
Sinthesis of N-[2-(2-cyclopentyloxy-3-methoxy-phenyl)-ethyl]-2-pyridin-4-yl-acetamide
A suspension under nitrogen of 4-pyridin-acetic acid (0.43 g, 2.48 mmoles) hydrochloride in dioxane (20 ml) was added with triethylamine (0.34 ml, 0.25 g, 2.48 mmoles) and heated in water-bath to 40° C. for 10 minutes, then cooled and added with HOBT (0.33 g, 2.48 mmoles) and DCC (0.51 g, 2.48 mmoles). After 45 minutes a solution of 2-(2-cyclopentyloxy-3-methoxy-phenyl)-ethylanine (0.53 g, 2.25 mmoles), obtained as described in example 3 then desalted, in dioxane (5 ml) was dropped therein. After 1 hour the formed solid was filtered and washed with dioxane, then dried, taken up in ethyl acetate, filtered and washed with aqueous NaHCO3, then with water. The mother liquor was anhydrified and dried to give an oil which was purified by flash chromatography (eluent: methylene chloride/methanol 99:1 to 93:7) to give 0.57 g of the title product (yield: 71%).

reactant | 4-pyridin-acetic acid | 2.48 mmoles, 0.43 g | N1=CC=C(C=C1)CC(=O)O | C7H7NO2
reactant | triethylamine | 2.48 mmoles, 0.34 ml, 0.25 g | C(C)N(CC)CC | C6H15N
reactant | HOBT | 2.48 mmoles, 0.33 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 2.48 mmoles, 0.51 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | N-[2-(2-cyclopentyloxy-3-methoxy-phenyl)-ethyl]-2-pyridin-4-yl-acetamide | 0.57 g, yield: 71% | C1(CCCC1)OC1=C(C=CC=C1OC)CCNC(CC1=CC=NC=C1)=O | C21H26N2O3
